US06319915B1
2-{3-[3-(1H-Benzotriazol-5-yl)-ureido]-2-oxo-7-phenyl-5-o-tolyl-azepan-1-yl}-N-tert-butyl-acetamide:
To a 35 mL round-bottomed flank equipped with nitrogen inlet and condenser were added 40 mg (0.25 mmol) benzotriazole-5-carboxylic acid, 10 mL dry benzene, 10 mL dry tetrahydrofuran, 0.058 mL (0.27 mmol) diphenylphosphoryl azide, and 0.034 mL (0.27 mmol) triethylamine. The reaction was refluxed for 1.5 hour, cooled briefly, and 100 mg (0.25 mmol) N-(t-butyl)-2-oxo-3-amino-5-(2-methylphenyl)-7-phenyl-2,3,4,5,6,7-hexahydroazepin-1-yl ethanoic amide (the more polar isomer from the preceding example) was added and refluxing continued for 10 hours. The reaction was cooled and evaporated the resulting residue was chromatographed on silica gel with methanol/methylene chloride as eluent to afford the title compound as a white amorphous solid, 53 mg (37%).

reactant | benzotriazole-5-carboxylic acid | 0.25 mmol, 40 mg | N1=NN=C2C1=CC=C(C2)C(=O)O | C7H5N3O2
reactant | diphenylphosphoryl azide | 0.27 mmol, 0.058 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.27 mmol, 0.034 mL | C(C)N(CC)CC | C6H15N
reactant | N-(t-butyl)-2-oxo-3-amino-5-(2-methylphenyl)-7-phenyl-2,3,4,5,6,7-hexahydroazepin-1-yl ethanoic amide | 0.25 mmol, 100 mg | C(C)(C)(C)NC(CN1C(C(CC(CC1C1=CC=CC=C1)C1=C(C=CC=C1)C)N)=O)=O | C25H33N3O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 2-{3-[3-(1H-Benzotriazol-5-yl)-ureido]-2-oxo-7-phenyl-5-o-tolyl-azepan-1-yl}-N-tert-butyl-acetamide | N1N=NC2=C1C=CC(=C2)NC(NC2C(N(C(CC(C2)C2=C(C=CC=C2)C)C2=CC=CC=C2)CC(=O)NC(C)(C)C)=O)=O | C32H37N7O3
